US07273882B2
Step H1. A mixture of 3,5-dibromo-toluene (4.25 g, 17 mmol), NBS (3 g, 17 mmol), and AIBN (150 mg) in carbon tetrachloride (50 mL) was heated at 80° C. for 3 hours. The resulting mixture was run through a silicon gel column with dichloromethane as the eluant. The fraction was collected and solvent was removed by rotovap, crude 1,3-dibromo-5-(bromomethyl)benzene was obtained as a white residue.

reactant | 3,5-dibromo-toluene | 17 mmol, 4.25 g | BrC=1C=C(C=C(C1)Br)C | C7H6Br2
reactant | NBS | 17 mmol, 3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 150 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,3-dibromo-5-(bromomethyl)benzene | BrC1=CC(=CC(=C1)CBr)Br | C7H5Br3
